### PR TITLE
feat: the Mackey-Arens theorem

### PR DESCRIPTION
**Pull request by j-loreaux**
still WIP

### CODE REVIEW

File: LeanOA/Mathlib/Analysis/LocallyConvex/Bounded.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+  obtain ⟨I, hI_fin, u, hu, rfl⟩ := hv
+  have := hI_fin.to_subtype
+  rw [absorbs_iInter]
+  simp only [nhds_induced, map_zero, Filter.mem_comap] at hu
+  intro i
+  obtain ⟨t, ht, htu⟩ := hu i
+  specialize hs i t ht
+  filter_upwards [hs, isBounded_singleton (x := 0) |>.compl] with c hc hc₀
+  -- alternate proof insteead of hte `calc` block.
+  -- grw [Set.subset_preimage_image (f i) s, hc, IsUnit.mk0 c hc₀ |>.preimage_smul_set .., htu]
```
Comment (themathqueen) [inline LeanOA/Mathlib/Analysis/LocallyConvex/Bounded.lean]: this proof is probably better?

File: LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatible.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+namespace LinearMap
+
+public section
+
+variable {𝕜 E F : Type*} [NontriviallyNormedField 𝕜] [AddCommGroup E] [Module 𝕜 E]
+    [TopologicalSpace E] [AddCommGroup F] [Module 𝕜 F]
+
+/-- A linear topology on `E` is compatible with the bilinear form `B` if the
+every continuous linear functional on `E` has the form `B.flip f` for exactly one `f : F`. -/
+class IsCompatible (B : E →ₗ[𝕜] F →ₗ[𝕜] 𝕜) : Prop where
```
Comment (themathqueen) [inline LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatible.lean]: probably needs a better name?

File: LeanOA/Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 3]
```diff
@@ -0,0 +1,82 @@
...
+definitional equivalence, but to avoid abuse of definitional equality it is implemented without
+`ContinuousLinearEquiv.refl`. -/
+noncomputable def WeakSpace.weakBilinCLE :
+    WeakSpace 𝕜 E ≃L[𝕜] WeakBilin (topDualPairing 𝕜 E).flip where
+  toLinearEquiv := (toWeakSpace 𝕜 E).symm ≪≫ₗ
+    (WeakBilin.linearEquiv 𝕜 (topDualPairing 𝕜 E).flip).symm
+  continuous_toFun := WeakBilin.continuous_of_continuous_eval' _ <| WeakBilin.eval_continuous _
+  continuous_invFun := WeakBilin.continuous_of_continuous_eval _ <| WeakBilin.eval_continuous' _
+
+section Banach_Alaoglu
```
Comment (themathqueen) [inline LeanOA/Mathlib/Topology/Algebra/Module/WeakDual.lean:31]: @JonBannon, maybe just upstream this to mathlib now?

Comment (j-loreaux) [reply LeanOA/Mathlib/Topology/Algebra/Module/WeakDual.lean:31]: Let's wait. I'm going to do a large `WeakBilin` refactor. This can be part of it.

File: LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatible.lean (hunk 2 above)
Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatible.lean]: Can you elaborate? In the literature I guess the claim is that the topology on E is compatible with the bilinear pairing. (This means that the continuous dual of E is identified with F.) What do you have in mind for an improvement?

File: LeanOA/Mackey.lean [hunk 4]
```diff
@@ -0,0 +1,864 @@
...
+  rw [LinearMap.bipolar, closedAbsConvexHull_eq_self]
+  · exact hs.image _
+  · have : Topology.IsEmbedding (pairing (dualPairing 𝕜 F) · ·) :=
+      LinearMap.IsWeak.isEmbedding Function.injective_id
+    have : T2Space (WeakBilin (dualPairing 𝕜 F)) := this.t2Space
+    apply IsCompact.isClosed
+    apply hs'.image hB₂
+  · exact hs_non.image _
+
+open ContinuousLinearMap Module in
```
Comment (JonBannon) [inline LeanOA/Mackey.lean]: It seems weird to leave this one here while I moved the other one (about the bipolar), but presently we don't have any `StrongDual` that feels appropriate, so I'll keep this here for now.

File: LeanOA/Mackey.lean [hunk 5]
```diff
@@ -0,0 +1,864 @@
...
+    (nhds 0).HasBasis (fun (Si : Set E × ι) => Si.1 ∈ 𝔖 ∧ p Si.2) fun (Si : Set E × ι) =>
+      {f : E →SLᵤ[σ, 𝔖] F | ∀ x ∈ Si.1, f x ∈ b Si.2} :=
+  UniformConvergenceCLM.hasBasis_nhds_zero_of_basis σ F 𝔖 h𝔖₁ h𝔖₂ h
+
+namespace LinearMap
+
+open scoped Pointwise Topology
+open WeakBilin Bornology
+
+lemma absorbent_polar_iff_isVonNBounded {𝕜 E F : Type*} [NontriviallyNormedField 𝕜]
```
Comment (JonBannon) [inline LeanOA/Mackey.lean]: As general as this looks (I thought it migh nicely live in `Topologyl.Algebra.Module.WeakBilin`, but that seemed to lead to circular import eventually...)

File: LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatible.lean (hunk 2 above)
Comment (themathqueen) [reply LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatible.lean]: How about something like `IsTopCompatible`? To mean the bilinear pairing "is topologically compatible"

`IsCompatible` is kind of confusing because what is the linear map compatible with?

Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatible.lean]: I see what you mean... maybe even something like `IsStrongDualCompatible B`?

File: LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatibleDual.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+
+open scoped ContinuousLinearMap in
+@[simp]
+lemma ContinuousLinearMap.coeLM_injective {R M N : Type*} (S : Type*) [Semiring R] [Semiring S]
+    [TopologicalSpace M] [AddCommMonoid M] [Module R M] [TopologicalSpace N] [AddCommMonoid N]
+    [Module R N] [Module S N] [SMulCommClass R S N] [ContinuousConstSMul S N] [ContinuousAdd N] :
+    Function.Injective (ContinuousLinearMap.coeLM S : (M →L[R] N) →ₗ[S] M →ₗ[R] N) := by
+  simp [Function.Injective, DFunLike.ext_iff]
+
+-- TODO: show that any `F ≃ₗ[𝕜] StrongDual 𝕜 E` yields an `IsCompatibleDual` instance.
```
Comment (j-loreaux) [inline LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatibleDual.lean]:
```suggestion
```

File: LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatibleDual.lean [hunk 7]
```diff
@@ -0,0 +1,125 @@
...
+
+noncomputable def StrongDual_to_coeLM_range :
+    StrongDual 𝕜 E ≃ₗ[𝕜] (ContinuousLinearMap.coeLM 𝕜 (M := E) (R := 𝕜) (N₃:= 𝕜)).range where
+      toFun f := (ContinuousLinearMap.coeLM 𝕜).rangeRestrict.toFun f
+      map_add' := by aesop
+      map_smul' := by aesop
+      invFun := by sorry --finish later if this indeed will work.
+      left_inv := sorry
+      right_inv := sorry
+
```
Comment (j-loreaux) [inline LeanOA/Mathlib/Analysis/LocallyConvex/IsCompatibleDual.lean]:
```suggestion
```

File: LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean
Comment (themathqueen) [inline LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean:1]: Should this be in the `Topology/Module` folder? Maybe `Analysis/LocallyConvex` would be more appropriate? I'm not sure

File: LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean [hunk 8]
```diff
@@ -0,0 +1,597 @@
...
+public import Mathlib.Data.Fintype.Order -- only needed for the finite union result
+
+@[expose] public section
+
+open ContinuousLinearMap Module
+open scoped Topology
+
+section ToBeMoved
+
+-- the version in Mathlib has some small defeq abuse. It uses `f : E →SL[σ] F`
```
Comment (themathqueen) [inline LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean]: Pretty sure this should be fixed now (as in, the fix should be in this branch now)

File: LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean [hunk 9]
```diff
@@ -0,0 +1,597 @@
...
+    B.codRestrict  _ (fun x ↦ ⟨⟨B x, hB x⟩, rfl⟩)
+  (LinearEquiv.refl _ _).arrowCongr e.symm B'
+
+lemma _root_.LinearMap.coeLM_toCLMRight_apply [TopologicalSpace F] (hB : ∀ x, Continuous (B x))
+    (x : E) : B.toCLMRight hB x = B x := by
+  simp [← ContinuousLinearMap.coeLM_apply 𝕜, LinearMap.toCLMRight]
+
+@[simp]
+lemma _root_.LinearMap.coe_toCLMRight [TopologicalSpace F] (hB : ∀ x, Continuous (B x))
+    (x : E) : ⇑(B.toCLMRight hB x) = B x := by
```
Comment (themathqueen) [inline LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean]: this can go to `Mathlib/Topology/Algebra/Module/LinearMap` with the following generality (haven't semilinearized it, but maybe I'll do it tomorrow):

<details><summary>code</summary>

```lean4
import Mathlib.Topology.Algebra.Module.LinearMap

namespace LinearMap
variable {R E F G : Type*} [CommSemiring R] [TopologicalSpace R]
  [AddCommMonoid E] [Module R E] [AddCommGroup F] [Module R F] [TopologicalSpace F]
  [AddCommGroup G] [Module R G] [TopologicalSpace G] [IsTopologicalAddGroup G]
  [ContinuousSMul R G] (B : E →ₗ[R] F →ₗ[R] G) (hB : ∀ x, Continuous (B x))

/-- Upgrade a bilinear map `B : E →ₗ[R] F →ₗ[R] → G` to a linear map into continuous linear maps
`B : E →ₗ[R] F →L[R] → G` (this can be generalized a lot; no need for scalars, also we can
semilinearize). -/
noncomputable def toCLMRight : E →ₗ[R] F →L[R] G :=
  letI e : (F →L[R] G) ≃ₗ[R] (ContinuousLinearMap.coeLM R (M := F) (N₃ := G) (R := R)).range :=
    .ofInjective (ContinuousLinearMap.coeLM R) fun _ _ ↦ by simp [DFunLike.ext_iff]
  letI B' : E →ₗ[R] (ContinuousLinearMap.coeLM R (M := F) (N₃ := G) (R := R)).range :=
    B.codRestrict _ (fun x ↦ ⟨⟨B x, hB x⟩, rfl⟩)
  (LinearEquiv.refl _ _).arrowCongr e.symm B'

lemma coeLM_toCLMRight_apply (x : E) : B.toCLMRight hB x = B x := by
  simp [← ContinuousLinearMap.coeLM_apply R, LinearMap.toCLMRight]

@[simp] lemma coe_toCLMRight (x : E) : ⇑(B.toCLMRight hB x) = B x := by
  congrm($(B.coeLM_toCLMRight_apply hB x))

end LinearMap
```
</spoiler>

File: LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean [hunk 10]
```diff
@@ -0,0 +1,597 @@
...
+  congrm($(B.coeLM_toCLMRight_apply hB x))
+
+lemma _root_.Real.sSup_image_nonneg {α : Type*} {f : α → ℝ} {s : Set α} (h : ∀ x ∈ s, 0 ≤ f x) :
```
Comment (themathqueen) [inline LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean]: can be moved to `Mathlib/Data/Real/Archimedean`

File: LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean
Comment (JonBannon) [reply LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean:1]: I think I agree with this. People looking for polar topologies would look near locally convex stuff...

File: LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean (hunk 8 above)
Comment (JonBannon) [reply LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean]: Indeed it is!

File: LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean (hunk 9 above)
Comment (JonBannon) [reply LeanOA/Mathlib/Topology/Algebra/Module/PolarTopology.lean]: OK. Maybe I will leave these things alone until you do what you will do tomorrow, rather than, e.g. moving this into `LeanOA/Mathlib/Topology/Algebra/Module/LinearMap` as is?

File: LeanOA/Mathlib/Topology/Algebra/Module/LinearMap.lean [hunk 11]
```diff
@@ -0,0 +1,27 @@
...
+variable {S R₂ R₃ M M₂ M₃ : Type*} [CommSemiring S] [Semiring R₂] [Semiring R₃]
+    {σ : R₂ →+* R₃} [AddCommMonoid M] [AddCommMonoid M₂] [AddCommGroup M₃] [Module S M]
+    [Module R₂ M₂] [Module R₃ M₃] [Module S M₃] [TopologicalSpace M₂]
+    [TopologicalSpace M₃] [SMulCommClass R₃ S M₃]
+    [ContinuousConstSMul S M₃] [ContinuousAdd M₃] (B : M →ₗ[S] M₂ →ₛₗ[σ] M₃)
+    (hB : ∀ x, Continuous (B x))
+
+/-- Upgrade a bilinear map `B : M →ₗ[S] M₂ →ₛₗ[σ] M₃` to a linear map into continuous semilinear
+  maps `M →ₗ[S] M₂ →SL[σ] M₃`. -/
+noncomputable def toCLMRightₛₗ : M →ₗ[S] M₂ →SL[σ] M₃ :=
```
Comment (themathqueen) [inline LeanOA/Mathlib/Topology/Algebra/Module/LinearMap.lean]: why `ₛₗ`? I think `toCLMRight` is good enough for now?

**Comment by JonBannon** [comment]
Great! I was wondering if you'd say that.

File: LeanOA/Mathlib/Analysis/LocallyConvex/Bipolar.lean [hunk 12]
```diff
@@ -0,0 +1,335 @@
...
+      = closedAbsConvexHull 𝕜 s := by
+  have := pairing_flip_polar_polar (topDualPairing 𝕜 E).flip
+    (s :=(((WeakBilin.linearEquiv 𝕜 (topDualPairing 𝕜 E).flip).symm '' s)))
+  have := congr (WeakSpace.weakBilinCLE)
+  sorry
+-/
+
+--Convex.toWeakSpace_closure
+--Map the bipolar here through WeakSpace, and we get the above bipolar.
+--Convex set is closed iff image is closed under toWeakSpace. (Prove lemma.)
```
Comment (themathqueen) [inline LeanOA/Mathlib/Analysis/LocallyConvex/Bipolar.lean]: was this meant to be removed

**Comment by JonBannon** [comment]
I didn't mean to remove it.

**Comment by JonBannon** [comment]
Oh I see it is commented out. I think it may be because we now have that
IsWeakSpace version. Away from computer at the moment, sorry!
